US05002960
(b) 2-{3,5-Dichloro-4-[(5-(3-methyl-5-isothiazolyl)penyl)-oxy]phenyl}-4,5-dihydro-oxazole [XXXV; n=5, R1 and R2 =Cl]
A suspension of 6.5 g 5-(5-chloropentyl)-3-methylisothiazole, 5.3 g potassium iodide, 9.1 g 2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenol and 3.9 g potassium hydroxide in 300 ml acetonitrile was heated at reflux for 40 hours. Filtration, concentration and flash filtration (silica gel; 1:1 hexane/ethyl acetate) gave 9.8 g of oily product which when crystallized from hexane at Dry Ice temperature gave 5.3 g 2-{3,5-dichloro-4-[(5-(3-methyl-5-isothiazolyl)pentyl)oxy]phenyl}-4,5-dihydro-oxazole as a colorless solid, m.p. 38°-39.5° C.

reactant | 5-(5-chloropentyl)-3-methylisothiazole | 6.5 g | ClCCCCCC1=CC(=NS1)C | C9H14ClNS
reactant | potassium iodide | 5.3 g | [I-].[K+]
reactant | 2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenol | 9.1 g | ClC1=C(C(=CC(=C1)C=1OCCN1)Cl)O | C9H7Cl2NO2
reactant | potassium hydroxide | 3.9 g | [OH-].[K+]
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-{3,5-Dichloro-4-[(5-(3-methyl-5-isothiazolyl)penyl)-oxy]phenyl}-4,5-dihydro-oxazole | 9.8 g | ClC=1C=C(C=C(C1OC1=CC=CC(=C1)C1=CC(=NS1)C)Cl)C=1OCCN1 | C19H14Cl2N2O2S
